US04879382
A mixture of 20 ml of acetic anhydride and 4.0 g of 10,11-dihydro-5-methyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine was stirred at room temperature for two hours. The mixture was then evaporated, the residue dissolved in water, and the aqueous layer extracted with ethyl acetate. The organic layer was washed with water followed by a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated. The concentrate was purified by means of high pressure liquid chromatography (silica gel; elution with ethyl acetate) to afford 2.3 g of 11-acetyl-10,11-dihydro-5-methyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine as an oil which solidified upon standing (mp 125°-130° C.). The solid was dissolved in ethanol and acidified with an ethanol solution of maleic acid. Dilution with diethyl ether precipitated 2.25 g (31.4%) of the corresponding maleate, mp 139°-141° C.

reactant | 10,11-dihydro-5-methyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine | 4.0 g | CN1N2C(CNC3=C1C=CN=C3)=CC=C2 | C11H12N4
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 11-acetyl-10,11-dihydro-5-methyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine | 2.3 g | C(C)(=O)N1CC=2N(N(C3=C1C=NC=C3)C)C=CC2 | C13H14N4O
